US07183293B2
[4-({[2-(Benzo[1,3]dioxol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-3-fluoro-phenoxy]-acetic acid of Formula (5.5.1)
To a stirred solution of [4-({[2-(benzo[1,3]dioxol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-3-fluoro-phenoxy]-acetic acid methyl ester (0.40 g, 0.88 mmol) in tetrahydrofuran (10 mL) and methanol (2 mL) was added aqueous lithium hydroxide (2 mL, 1 M, 2 mmol). The reaction was stirred at room temperature 1 hour. The solvents were stripped in vacuo and the residue partitioned between dilute aqueous hydrochloric acid and ethyl acetate. The aqueous was extracted with 2 aliquots ethyl acetate and the pooled organics were washed with brine, dried over sodium sulfate and concentrated in vacuo to afford a yellow solid. The crude product was recrystallized from ethyl acetate to afford 80 mg of a white crystalline solid (0.18 mmol, 21% yield). mp 180° C.

reactant | [4-({[2-(benzo[1,3]dioxol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-3-fluoro-phenoxy]-acetic acid methyl ester | 0.88 mmol, 0.40 g | COC(COC1=CC(=C(C=C1)CNC(=O)C=1C(=NC=CC1)OC1=CC2=C(OCO2)C=C1)F)=O | C23H19FN2O7
reactant | lithium hydroxide | 2 mmol, 1 M, 2 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | [4-({[2-(Benzo[1,3]dioxol-5-yloxy)-pyridine-3-carbonyl]-amino}-methyl)-3-fluoro-phenoxy]-acetic acid | 0.18 mmol, 80 mg, 21% yield | O1COC2=C1C=CC(=C2)OC2=NC=CC=C2C(=O)NCC2=C(C=C(OCC(=O)O)C=C2)F | C22H17FN2O7
